US04599333
A mixture of 645 mg of 3-(3-amino-3-methylbutoxy)-6-chloropyridazine, 650 mg of 1-(2-methylphenoxy)-2,3-epoxypropane and 15 ml of methanol was refluxed for 5 hours, and the solvent was evaporated under reduced pressure. A solution of the residue in benzene was extracted with 1N hydrochloric acid. The aqueous layer was extracted with chloroform, and the organic layer was washed with 5% sodium carbonate, and dried over anhydrous sodium sulfate. The solvent was evaporated to give 938 mg of 1-(2-methylphenoxy)-3-[1,1-dimethyl-3-(chloro-6-pyridazinyloxy)propylamino]-2-propanol as an oil.

reactant | 3-(3-amino-3-methylbutoxy)-6-chloropyridazine | 645 mg | NC(CCOC=1N=NC(=CC1)Cl)(C)C | C9H14ClN3O
reactant | 1-(2-methylphenoxy)-2,3-epoxypropane | 650 mg | CC1=C(OCC2CO2)C=CC=C1 | C10H12O2
solvent | methanol | 15 ml | CO | CH4O
product | 1-(2-methylphenoxy)-3-[1,1-dimethyl-3-(chloro-6-pyridazinyloxy)propylamino]-2-propanol | 938 mg | CC1=C(OCC(CNC(CCOC2=CC=C(N=N2)Cl)(C)C)O)C=CC=C1 | C19H26ClN3O3
